US06172085B2
2-[[4-(3,3-Diphenylpropionyl)-1-piperazinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine
Using 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1-piperazinyl)methyl]-5-benzofuranamine and 3,3-diphenylpropionic acid, the procedure of Example 10 was otherwise repeated to provide the title compound. Yield 72%.

reactant | 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1-piperazinyl)methyl]-5-benzofuranamine | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCNCC2 | C17H27N3O
reactant | 3,3-diphenylpropionic acid | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
product | 2-[[4-(3,3-Diphenylpropionyl)-1-piperazinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | Yield 72% | C1(=CC=CC=C1)C(CC(=O)N1CCN(CC1)CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C)C2=CC=CC=C2 | C32H39N3O2
